US09446034B2
To a 10 mL sealable tube was added 2-[(2,5-dichloro-4-pyridinyl)amino]-N-methylbenzamide (95 mg, 0.321 mmol), 1,5-dimethyl-1H-pyrazol-4-amine (35.7 mg, 0.321 mmol), BINAP (20 mg, 0.032 mmol), cesium carbonate (314 mg, 0.964 mmol), and palladium(II) acetate (7.21 mg, 0.032 mmol) in 1,4-dioxane (5 mL). The reaction vessel was sealed and heated at 150° C. for 1 hr. The reaction mixture was purified using a prep HPLC (0.1% formic acid, 5 to 95% water:acetonitrile). Fractions were combined and evaporated. 2-({5-Chloro-2-[(1,5-dimethyl-1H-pyrazol-4-yl)amino]-4-pyridinyl}amino)-N-methylbenzamide (16 mg, 0.037 mmol, 11.38% yield) was isolated as yellow oil LCMS (M+H)+=371.1; 1H NMR (400 MHz, MeOD) ppm 2.17 (s, 3 H) 2.91 (s, 3 H) 3.78 (s, 3 H) 6.47 (s, 1 H) 7.13-7.24 (m, 1 H) 7.40 (s, 1 H) 7.46-7.57 (m, 2 H) 7.67 (dd, J=7.83, 1.26 Hz, 1 H) 7.82 (s, 1 H).

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-methylbenzamide | 0.321 mmol, 95 mg | ClC1=NC=C(C(=C1)NC1=C(C(=O)NC)C=CC=C1)Cl | C13H11Cl2N3O
reactant | 1,5-dimethyl-1H-pyrazol-4-amine | 0.321 mmol, 35.7 mg | CN1N=CC(=C1C)N | C5H9N3
reactant | BINAP | 0.032 mmol, 20 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.964 mmol, 314 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.032 mmol, 7.21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-({5-Chloro-2-[(1,5-dimethyl-1H-pyrazol-4-yl)amino]-4-pyridinyl}amino)-N-methylbenzamide | 0.037 mmol, 16 mg, 11.38% yield | ClC=1C(=CC(=NC1)NC=1C=NN(C1C)C)NC1=C(C(=O)NC)C=CC=C1 | C18H19ClN6O
